US04289778
A mixture of 6.1 g. of m-trifluoromethylphenyl isothiocyanate, 6.8 g. of 2-bromoethylamine hydrobromide, 3.5 g. of sodium carbonate, and about 100 ml. of chloroform was stirred at ambient temperature for about 14 hours. To the reaction mixture was added about 50 ml. of water. The aqueous phase was washed with chloroform which was added to the organic phase. The organic phase then was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After filtering, the solvent was removed under reduced pressure. The residue was recrystallized from petroleum ether to give N-(3-trifluoromethylphenyl)-2-(3-trifluoromethylphenylimino)-3-thiazolidinecarbothioamide, m.p. 116°-7°.

reactant | m-trifluoromethylphenyl isothiocyanate | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
reactant | 2-bromoethylamine hydrobromide | Br.BrCCN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-(3-trifluoromethylphenyl)-2-(3-trifluoromethylphenylimino)-3-thiazolidinecarbothioamide | FC(C=1C=C(C=CC1)NC(=S)N1C(SCC1)=NC1=CC(=CC=C1)C(F)(F)F)(F)F | C18H13F6N3S2
